US06235731B1
1) Synthesis of methyl 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetate
To a suspension of 10.0 g (37.83 mM) of 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid in methanol (50 ml) was added 0.5 ml (6 mM) of concentrated sulfuric acid at room temperature and the mixture was stirred for 3 days. To this reaction mixture was added a saturated aqueous solution of sodium hydrogen carbonate at 0° C. until the pH had been brought to 5-7 and the solvent was then distilled off under reduced pressure. The residue was diluted with water and extracted with diethyl ether. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide the title compound as tan-colored oil.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid | 37.83 mM, 10.0 g | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)O)C)C | C15H20O4
reactant | sulfuric acid | 6 mM, 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | methyl 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetate | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)OC)C)C | C16H22O4
